US09163021B2
N-(2-{[1-(1-hydroxypropan-2-yl)-1H-pyrrolo[3,2-c]pyridin-3-yl]carbonyl}pyridin-4-yl)-2-[3-(trifluoromethyl)phenyl]acetamide
Prepared according to method described for Method 1 (Example 19) using (4-aminopyridin-2-yl)[1-(2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethyl)-1H-pyrrolo[3,2-c]pyridin-3-yl]methanone (Enantiomer 1, Preparation 30) and 3-trifluoromethylphenylacetic acid. The residue was partitioned between EtOAc and saturated aqueous NaHCO3 solution, the organic layer collected, washed with brine, dried over sodium sulphate and concentrated in vacuo. The residue was dissolved in THF and 10% HCl in dioxane was added. The reaction was stirred at room temperature for 18 hours. The reaction was concentrated in vacuo and purified using preparative HPLC to afford the title compound.

reactant | (4-aminopyridin-2-yl)[1-(2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethyl)-1H-pyrrolo[3,2-c]pyridin-3-yl]methanone | NC1=CC(=NC=C1)C(=O)C1=CN(C2=C1C=NC=C2)C(CO[Si](C)(C)C(C)(C)C)C | C22H30N4O2Si
reactant | 3-trifluoromethylphenylacetic acid | FC(C=1C=C(C=CC1)CC(=O)O)(F)F | C9H7F3O2
product | N-(2-{[1-(1-hydroxypropan-2-yl)-1H-pyrrolo[3,2-c]pyridin-3-yl]carbonyl}pyridin-4-yl)-2-[3-(trifluoromethyl)phenyl]acetamide | OCC(C)N1C=C(C=2C=NC=CC21)C(=O)C2=NC=CC(=C2)NC(CC2=CC(=CC=C2)C(F)(F)F)=O | C25H21F3N4O3
